US05508293
Into a solution of 6-diethylamino-3-cyanopyridine (460 mg, 2.63 mmol) in 1-propanol (15 ml) was passed hydrogen chloride gas at a temperature of 0°-5° C. for 30 minutes. The reactor was tight sealed, and the mixture was stirred at 0° C. over night. After the reaction was completed, the reaction mixture was concentrated under reduced pressure, and the residue was added to a concentrated sodium carbonate solution. After it was confirmed that the solution showed an alkaline pH (9 or more), it was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product of propyl 6-diethylamino-3-pyridinecarboximidate as an oil. The oil was dissolved in acetonitrile (2 ml), and an aqueous solution (5 ml) of NaH2PO4 ·2H2O (1.62 g, 10.4 mmol), Na2HPO4 (370 mg, 2.61 mmol) and cyanamide (220 mg, 5.24 mmol) was added to the solution. The mixture was stirred at room temperature over night. After the reaction was completed, the reaction mixture was extracted with chloroform, and the chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography with a mixed solvent of methanol and chloroform to give propyl N-cyano-6-diethylamino-3-pyridinecarboximidate (630 mg, yield 92%) as a colorless oil.

reactant | 6-diethylamino-3-cyanopyridine | 2.63 mmol, 460 mg | C(C)N(C1=CC=C(C=N1)C#N)CC | C10H13N3
reactant | hydrogen chloride | Cl | ClH
reactant | 1-propanol | 15 ml | C(CC)O | C3H8O
product | propyl 6-diethylamino-3-pyridinecarboximidate | C(C)N(C1=CC=C(C=N1)C(OCCC)=N)CC | C13H21N3O
